US07067529B2
To 50 ml of methanol was added 3-hydroxyphenyl acetic acid (7.61 g, 0.05 mol). The mixture was cooled in an ice bath and then thionyl chloride was added (3.6 ml, 0.05 mol). The mixture was refluxed for 4 hrs and methanol was evaporated. The residue was extracted with ethyl acetate and sodium bicarbonate solution. The organic layer was dried and evaporated to give an oil (8.90 g). This oil was dissolved in 150 ml of acetone containing benzyl bromide (9.17 g, 0.053 mol) and potassium carbonate (16.9 g, 0.16 mol). The mixture was stirred at room temperature overnight. The solid was removed through filtration and solvents was evaporated. The residue was extracted with ethyl acetate and sodium bicarbonate solution. The organic layer was dried and evaporated. The residue was suspended in 70 ml of methanol and 1N sodium hydroxide solution was added (70 ml). The mixture was refluxed for 1 hr and solvents were evaporated. The residue was dissolved in 150 ml of water and extracted with ether. The aqueous layer was acidified with 1N hydrochloric acid and the white precipitate was filtered to give 3-benzyloxyphenyl acetic acid (11.0 g, 91%).

reactant | benzyl bromide | 0.053 mol, 9.17 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.16 mol, 16.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-benzyloxyphenyl acetic acid | 11.0 g, 91% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC(=O)O | C15H14O3
